US07576215B2
[4-[3-({4-[(DIETHYLAMINO)METHYL]BENZYL}OXY) PHENYL]-8-(TRIFLUOROMETHYL)QUINOLIN-3-YL](PHENYL)METHANONE
A solution of {4-[3-(4-chloromethyl-benzyloxy)-phenyl]-8-trifluoromethyl-quinolin-3-yl}phenyl-methanone (011 g, 0.2 mmol) and diethylamine(0.3 g, 5.7 mmol) in CH2Cl2 (5 ml) was stirred at r.t. After 24 hr, the reaction was concentrated and purified by column chromatography (eluent 25% EtOAc/Hex) to give the title compound as a foam (0.10 g); MS m/z 569.

reactant | {4-[3-(4-chloromethyl-benzyloxy)-phenyl]-8-trifluoromethyl-quinolin-3-yl}phenyl-methanone | 0.2 mmol | ClCC1=CC=C(COC=2C=C(C=CC2)C2=C(C=NC3=C(C=CC=C23)C(F)(F)F)C(=O)C2=CC=CC=C2)C=C1 | C31H21ClF3NO2
reactant | diethylamine | 5.7 mmol, 0.3 g | C(C)NCC | C4H11N
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | [4-[3-({4-[(DIETHYLAMINO)METHYL]BENZYL}OXY) PHENYL]-8-(TRIFLUOROMETHYL)QUINOLIN-3-YL](PHENYL)METHANONE | 0.10 g | C(C)N(CC)CC1=CC=C(COC=2C=C(C=CC2)C2=C(C=NC3=C(C=CC=C23)C(F)(F)F)C(=O)C2=CC=CC=C2)C=C1 | C35H31F3N2O2
